US05236952
1.45 g of 5-(bromoacetyl)-2,3-diethoxybenzonitrile and 1.12 g of selenium dioxide are stirred at 120° for 18 hours in 10 ml of n-hexanol. After cooling to room temperature the mixture is diluted with 20 ml of methylene chloride and filtered. The filtrate is washed with water, dried over sodium sulfate and evaporated. The residue is chromatographed on 70 g of silica gel with hexane/ether (2:1). there is obtained hexyl (3-cyano-4,5-dimethoxyphenyl)glyoxylate as an oil.

reactant | 5-(bromoacetyl)-2,3-diethoxybenzonitrile | 1.45 g | BrCC(=O)C=1C=C(C(=C(C#N)C1)OCC)OCC | C13H14BrNO3
reactant | selenium dioxide | 1.12 g | [Se](=O)=O | O2Se
reactant | n-hexanol | 10 ml | C(CCCCC)O | C6H14O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | hexyl (3-cyano-4,5-dimethoxyphenyl)glyoxylate | C(#N)C=1C=C(C=C(C1OC)OC)C(C(=O)OCCCCCC)=O | C17H21NO5
